US07173033B2
To a solution of diethyl [(6-azepan-1-yl-1,2,4-triazolo[4,3-b]pyridazin-3-yl)methyl]phosphonate (367 mg) in THF (10 ml), potassium tert-butoxide (127 mg) was added with cooling in an ice bath, and the mixture was stirred at room temperature for 40 minutes. The resultant red solution was combined with 2-bromobenzaldehyde (0.128 ml), and stirred at room temperature for further 1 hour. The reaction solution was combined with water, and extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resultant white solids were recrystallized from methanol to obtain 6-azepan-1-yl-3-[(E)-2-(2-bromophenyl)vinyl]-1,2,4-triazolo[4,3-b]pyridazine (152 mg) as colorless crystals.

reactant | diethyl [(6-azepan-1-yl-1,2,4-triazolo[4,3-b]pyridazin-3-yl)methyl]phosphonate | 367 mg | N1(CCCCCC1)C=1C=CC=2N(N1)C(=NN2)CP(OCC)(OCC)=O | C16H26N5O3P
reactant | potassium tert-butoxide | 127 mg | CC(C)([O-])C.[K+]
reactant | 2-bromobenzaldehyde | 0.128 ml | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-azepan-1-yl-3-[(E)-2-(2-bromophenyl)vinyl]-1,2,4-triazolo[4,3-b]pyridazine | 152 mg | N1(CCCCCC1)C=1C=CC=2N(N1)C(=NN2)\C=C\C2=C(C=CC=C2)Br | C19H20BrN5
